US04681933
3'-Iodo-5-ethyl-5'-O-trityl-2',3'-dideoxyuridine
A mixture of 5-ethyl-3'-O-methanesulfonyl-5'-O-trityl-2'-deoxyuridine (3.2 g, 5.6 mmole) and sodium iodide (15.0 g, 100 mmole) in 1,2-dimethoxyethane is refluxed for 18 hr.

reactant | 5-ethyl-3'-O-methanesulfonyl-5'-O-trityl-2'-deoxyuridine | 5.6 mmole, 3.2 g | C(C)C=1C(NC(N([C@H]2C[C@H](OS(=O)(=O)C)[C@@H](COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C31H32N2O7S
reactant | sodium iodide | 100 mmole, 15.0 g | [I-].[Na+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 3'-Iodo-5-ethyl-5'-O-trityl-2',3'-dideoxyuridine | I[C@H]1C[C@@H](O[C@@H]1COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C(=O)NC(=O)C(=C1)CC | C30H29IN2O4
